US06384041B1
A solution of 2.35 g (12.9 mmol) of 4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine in 60 mL of tetrahydrofuran (THF) was added to a 0° C. slurry of 2.20 g (12.9 mmol) of benzylbromide and 0.31 g (12.9 mmol) of sodium hydride in 20 mL of THF. The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The reaction was quenched by the addition of 20 mL of 2 M sodium hydrogen sulfate and then extracted with 70 mL of ethyl acetate. The organic phase was dried with sodium sulfate and concentrated to 4.0 g of off-white solid. The solid was purified by flash chromatography using (100 g of silica gel, methylene chloride) to provide 1.53 g (43%) of 4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine as a white solid. nmr (500 MHz, CDCl3) δ1.32 (t, J=7.4 Hz, 3H), 2.67 (q, J=7.4 Hz, 2H), 5.49 (s, 2H), 6.40 (s, 1H), 7.04 (d, J=7.0 Hz, 2H), 7.28 (m, 3H), 8.60 (s, 1H)

reactant | 4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 12.9 mmol, 2.35 g | ClC1=C2C(NC=N1)=NC(=C2)CC | C8H8ClN3
reactant | benzylbromide | 12.9 mmol, 2.20 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 12.9 mmol, 0.31 g | [H-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | O1CCCC1 | C4H8O
product | 4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.53 g, 43% | ClC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC=CC=C2 | C15H14ClN3
